US05811439
Indole-4-carbaldehyde (435 mg) was dissolved in 8 ml of dimethylformamide at room temperature under an argon gas atmosphere, then 126 mg of sodium hydride (content 60%) was added to the resulting solution and the mixture was stirred for 30 minutes, then 439 mg of m-tolylisocyanate was added thereto and the resulting mixture was stirred for one hour. The reaction solution was added to 50 ml of water followed by extraction with ethyl acetate (50 ml×2). The resulting organic phase was washed with water (50 ml×2), dried over anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure to give a crude product. This was subjected to silica gel chromatography (eluent: hexane/ethyl acetate=4/1) to give 736 mg of 1-(m-tolylcarbamoyl)indole-4-carbaldehyde as pale yellow crystals. The yield thereof was found to be 88%.

reactant | Indole-4-carbaldehyde | 435 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | sodium hydride | 126 mg | [H-].[Na+]
reactant | m-tolylisocyanate | 439 mg | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-(m-tolylcarbamoyl)indole-4-carbaldehyde | 736 mg | C1(=CC(=CC=C1)NC(=O)N1C=CC=2C(=CC=CC12)C=O)C | C17H14N2O2
